US05217978
Using the procedure described in Example 5, 4-(5-bromothien-2-yl)-4-methoxytetrahydropyran was reacted with di-(1-methyl-2-thioxo-1,2,3,4-tetrahydroquinolin-6-yl) disulphide to give 4-methoxy-4-[5-(1-methyl-2-thioxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thien-2-yl]tetrahydropyran in 62% yield, m.p. 100°-102° C.

reactant | 4-(5-bromothien-2-yl)-4-methoxytetrahydropyran | BrC1=CC=C(S1)C1(CCOCC1)OC | C10H13BrO2S
reactant | di-(1-methyl-2-thioxo-1,2,3,4-tetrahydroquinolin-6-yl) disulphide | CN1C(CCC2=CC(=CC=C12)SSC=1C=C2CCC(N(C2=CC1)C)=S)=S | C20H20N2S4
product | 4-methoxy-4-[5-(1-methyl-2-thioxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thien-2-yl]tetrahydropyran | 62% yield | COC1(CCOCC1)C=1SC(=CC1)SC=1C=C2CCC(N(C2=CC1)C)=S | C20H23NO2S3
